US08097759B2
5-Bromo-N-(3,5-dichlorophenyl)-2-hydroxybenzamide (Compound No. 148)
Using 5-bromosalicylic acid and 3,5-dichloroaniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
product | 5-Bromo-N-(3,5-dichlorophenyl)-2-hydroxybenzamide | Yield: 61.6% | BrC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)Cl)Cl)C1)O | C13H8BrCl2NO2
